US08877815B2
A suspension of tert-butyl 2-cyano-3-(3,4-dichlorophenyl)propanoate (100 mg, 0.333 mmol), Raney 2800 nickel (slurry in water) (156 mg, 2.67 mmol) and NH4OH (1.297 ml, 33.3 mmol) in EtOH (3 ml) was allowed to stir under hydrogen at room temperature for 14 hours. The reaction mixture was filtered and concentrated under reduced pressure to give a crude material (93 mg). A solution of the crude material, 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid (87 mg, 0.333 mmol), EDC (83 mg, 0.433 mmol) and HOAt (58.9 mg, 0.433 mmol) in DMF (1 ml) was allowed to stir at room temperature for 2 hours. The reaction was quenched with H2O, and the product was extracted with EtOAc and washed with brine, dried over MgSO4, filtered, and concentrated under reduced pressure. The obtained residue was purified by flash column chromatography on silica gel (eluent: heptane/EtOAc=100:0 to 20:80) to give tert-butyl 3-(1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxamido)-2-(3,4-dichlorobenzyl)propanoate (84.5 mg); Retention time=1.70 minutes (condition B); MS (m+1)=548.2; 1H NMR (400 MHz, CDCl3, data for major rotamer) δ ppm 1.37 (s, 9H) 1.61-1.70 (m, 6H) 2.00-2.07 (m, 2H) 2.66-2.84 (m, 5H) 3.26-3.48 (m, 2H) 5.08 (s, 2H) 6.43-6.46 (app t, 1H) 7.02-7.05 (m, 1H) 7.29-7.36 (m, 7H).

reactant | tert-butyl 2-cyano-3-(3,4-dichlorophenyl)propanoate | 0.333 mmol, 100 mg | C(#N)C(C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)Cl)Cl | C14H15Cl2NO2
reactant | NH4OH | 33.3 mmol, 1.297 ml | [NH4+].[OH-]
reactant | 1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxylic acid | 0.333 mmol, 87 mg | C(C1=CC=CC=C1)OC(CC1(CCCC1)C(=O)O)=O | C15H18O4
reactant | EDC | 0.433 mmol, 83 mg
reactant | HOAt | 0.433 mmol, 58.9 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | EtOH | 3 ml | CCO | C2H6O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | nickel | 2.67 mmol, 156 mg | [Ni] | Ni
product | tert-butyl 3-(1-(2-(benzyloxy)-2-oxoethyl)cyclopentanecarboxamido)-2-(3,4-dichlorobenzyl)propanoate | 84.5 mg | C(C1=CC=CC=C1)OC(CC1(CCCC1)C(=O)NCC(C(=O)OC(C)(C)C)CC1=CC(=C(C=C1)Cl)Cl)=O | C29H35Cl2NO5
